US05710142
4,4-difluoro-3-ethyl-3-trimethylsilyloxy-5-hexene
A heterogenous solution of acid-washed zinc powder (4.74 g, 72,5 mmol), 3-pentanone (3.84 ml, 36.4 mmol), and dry THF (25 ml) was cooled to 0° C. in an ice-water bath, and a mixture of 3-bromo-3,3-difluoropropene (6.00 g, 38.2 mmol) in dry THF (10 ml) was slowly added. The reaction mixture was allowed to stand at room temperature overnight. Then, aqueous hydrochloric acid (5%, 30 ml) was added to the reaction mixture, which was stirred for 5 minutes. Excess zinc was removed by filtration and washed with ether. The organic phase was washed with saturated sodium bicarbonate solution, water (twice), dried over MgSO4 and concentrated. This oil was dissolved in dichloromethane (50 ml), and triethylamine (7.05 ml, 50.8 mmol) and 4-(N,N-dimethylamino)-pyridine (250 mg) are added. The reaction mixture was cooled to 0° C. and trimethylsilyl chloride (6.42 ml, 50.8 mmol) was added dropwise, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water and extracted twice with ether. The combined organic layers were washed several times with water, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography (50 g silica gel; 2% EtOAc in petroleum ether as eluant) to give the compound as a colourless oil, δ 0.13 (s, 9H), 0.89 (m, 6H), 1.5-1.8 (m, 4H), 5.43 (m, 1H), 5.63 (m, 1H), 5.92-6.13 (m, 1H).

reactant | 3-pentanone | 36.4 mmol, 3.84 ml | CCC(CC)=O | C5H10O
reactant | 3-bromo-3,3-difluoropropene | 38.2 mmol, 6.00 g | BrC(C=C)(F)F | C3H3BrF2
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | triethylamine | 50.8 mmol, 7.05 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 50.8 mmol, 6.42 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | 4-(N,N-dimethylamino)-pyridine | 250 mg | CN(C)C1=CC=NC=C1 | C7H10N2
catalyst | zinc | 72,5 mmol, 4.74 g | [Zn] | Zn
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4,4-difluoro-3-ethyl-3-trimethylsilyloxy-5-hexene | FC(C(CC)(O[Si](C)(C)C)CC)(C=C)F | C11H22F2OSi
